Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Opiods / albuterol / Atrovent / Statins-Hmg-Coa Reductase 
Inhibitors
 
Attending: ___.
 
Chief Complaint:
Chest pain
 
Major Surgical or Invasive Procedure:
Cardiac catheterization with percutaneous transluminal coronary 
angioplasty ___

Impressions:
1. Successful PTCA only of the Cx.
2. Wire perforation sealed with prolonged balloon inflation and 
administration of protamine.
Recommendations
1. If persistent angina on maximal medical therapy, can 
reattempt OM and/or CTO PCI of the RCA.
2. ECHO tonight to establish baseline and then repeat if there 
is any change in hemodynamic status.
3. Maximize secondary prevention CAD.

 
History of Present Illness:
___ year old female with hx CAD, HTN, DM2 (diet-controlled), HL, 
GERD who presented at ___ with chest pain, transferred to 
___ for cath, now transferred to CCU after perforated LCx 
during cath. Patient presented to ___ on ___ with chest 
pressure radiating to the jaw and shoulder. Pain lasted for 
hours but with brief exacerbations lasting for ___ minutes at 
a time. She had tropX2 overnight that were negative, however pt 
still had CP in AM and after discussion with pt's cardiologist, 
Dr. ___ was made to transfer patient for cath to 
___. Of note, patient had equivocally positive stress last 
___ (Small area of lateral wall ischemia without infarct, 
Normal LV wall motion, EF 65%) and was treated medically.  
 
Patient underwent catherization which was complicated by 
perforation of the LCx. Perforation was sealed with a balloon. 
Had successful PTCA of LCx.

On arrival to the CCU: no complaints. NO CP/SOB.
 
Past Medical History:
# CARDIAC RISK FACTORS
- Diabetes
- Hypertension
- Dyslipidemia
  
# OTHER PAST MEDICAL HISTORY
- hx TIA  
- b/l Carpal tunnel syndrome  
- hysterectomy  
- appendectomy  
- tonsillectomy  

 
Social History:
___
Family History:
No family history of early MI, arrhythmia, cardiomyopathies, or 
sudden cardiac death.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
VS: T afebrile  BP 152/71 HR 60  RR 18  O2 SAT 94
GENERAL: Well developed, well nourished in NAD. Oriented x3. 
Mood, affect appropriate.
HEENT: Normocephalic atraumatic. Sclera anicteric. PERRL. EOMI. 
Conjunctiva were pink. No pallor or cyanosis of the oral mucosa. 
No xanthelasma.
NECK: Supple. No JVD.
CARDIAC: PMI located in ___ intercostal space, midclavicular 
line. Regular rate and rhythm. Normal S1, S2. No murmurs, rubs, 
or gallops. 
LUNGS: No chest wall deformities or tenderness. Respiration is 
unlabored with no accessory muscle use. No crackles, wheezes or 
rhonchi.
ABDOMEN: Soft, non-tender, non-distended. No hepatomegaly. No 
splenomegaly.
EXTREMITIES: Warm, well perfused. No clubbing, cyanosis, or 
peripheral edema.
SKIN: No significant skin lesions or rashes.
PULSES: Distal pulses palpable and symmetric.

DISCHARGE PHYSICAL EXAM:
VS: Stable
GEN: WDWN female, NAD.
NECK: Supple, JVP flat.
CV: RRR, no m/r/g
PULM: CTAB
ABD: Soft, NT/ND
EXT: WWP, no c/c/e
SKIN: No lesions/rashes
 
Pertinent Results:
ADMISSION LABS:
=====================
___ 12:54PM BLOOD WBC-4.2 RBC-4.80 Hgb-15.3 Hct-45.4* 
MCV-95 MCH-31.9 MCHC-33.7 RDW-12.6 RDWSD-44.0 Plt ___
___ 09:00AM BLOOD ___ PTT-29.9 ___
___ 09:00AM BLOOD Glucose-118* UreaN-10 Creat-0.8 Na-134 
K-4.9 Cl-99 HCO3-23 AnGap-17
___ 09:00AM BLOOD cTropnT-<0.01
___ 04:29AM BLOOD Calcium-9.1 Phos-4.5 Mg-2.2

PERTINENT RESULTS:
=====================
N/A

DISCHARGE LABS:
=====================
___ 04:29AM BLOOD ___ PTT-29.4 ___
___ 04:29AM BLOOD Glucose-97 UreaN-16 Creat-0.8 Na-133 
K-4.1 Cl-100 HCO3-23 AnGap-14

MICROBIOLOGY:
=====================
___ 1:25 pm URINE      SORUCE: ___.
   URINE CULTURE (Final ___:    NO GROWTH.

IMAGING:
=====================
Echocardiogram ___: Normal left ventricular wall thickness, 
cavity size, and regional/global systolic function (biplane LVEF 
= 71 %). There is no ventricular septal defect. Right 
ventricular chamber size and free wall motion are normal. The 
aortic valve leaflets (3) appear structurally normal with good 
leaflet excursion. The mitral valve leaflets are structurally 
normal. The estimated pulmonary artery systolic pressure is 
normal. There is a trivial/physiologic pericardial effusion. 
There are no echocardiographic signs of tamponade. 
IMPRESSION: Trivial physiologic pericardial effusion. Normal 
biventricular cavity sizes with preserved regional and global 
biventricular systolic function.
Compared with the prior study (images reviewed) of ___, 
the effusion is slightly smaller, though the exact same 
orientation was not obtained with this study and may therefore 
represent no change.  

Echocardiogram ___: Right ventricular chamber size and free 
wall motion are normal. There is a very small pericardial 
effusion anterior to the right ventricle (clip 5). No 
hemodynamic compromise is suggested. 
 
Brief Hospital Course:
___ year old female with hx CAD, HTN, DM2 (diet-controlled), HL, 
GERD who presented at ___ with chest pain, transferred to 
___ for cath, then transferred to CCU after perforated LCx 
during cath. The following issues were addressed during this 
hospitalization: 

# Perforated LCx: Cath complicated by LCx perforation during 
procedure. Perforation was sealed with a balloon. In CCU for 
monitoring. Possible complication is bleeding and possible 
cardiac tamponade. She was monitored closely but remained 
hemodynamically stable. A follow-up Echo was obtained (see 
results above), and she was discharged the day after admission.
 
# Unstable angina s/p cath: Patient presented with UA, trops 
negative, no EKG findings. Per cardiologist recommendations, she 
underwent cath.  Cath notable for Cx with mid vessel 70% lesion 
at the takeoff of a small OM which was subtotally occluded 
filling via collaterals from the LAD. There were robust 
collaterals filling the distal PDA, PL and distal RCA. The RCA 
had diffuse severe disease with serial 60-90% lesions followed 
by total occlusion distally. Successful PTCA of LCx. No chest 
pain while in CCU. She was continued on her home ASA 81 mg, 
Plavix 75mg daily, and Atorvastatin 80 mg.

# HTN. Her home antihypertensives (amlodipine, lisnopril and 
HCTZ) were held initially given that she was normotensive. They 
were re-introduced prior to discharge.   

# HLD: continued atorvastatin 80mg daily as above. 

# Diabetes type 2: diet-controlled, A1C 5.8% in ___. Her 
serum blood glucose was check with her morning labs but remained 
normal. 

# GERD. She was continued on her home pantoprazole. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Hydrochlorothiazide 25 mg PO DAILY 
2. Atorvastatin 80 mg PO QPM 
3. amLODIPine 5 mg PO DAILY 
4. TraZODone 50 mg PO QHS:PRN insomnia 
5. Clopidogrel 75 mg PO DAILY 
6. Pantoprazole 40 mg PO Q24H 
7. Aspirin 81 mg PO DAILY 
8. Lisinopril 40 mg PO DAILY 
9. Metoprolol Succinate XL 25 mg PO DAILY 

 
Discharge Medications:
1.  amLODIPine 5 mg PO DAILY  
2.  Aspirin 81 mg PO DAILY  
3.  Atorvastatin 80 mg PO QPM  
4.  Clopidogrel 75 mg PO DAILY  
5.  Hydrochlorothiazide 25 mg PO DAILY  
6.  Lisinopril 40 mg PO DAILY  
7.  Metoprolol Succinate XL 25 mg PO DAILY  
8.  Pantoprazole 40 mg PO Q24H  
9.  TraZODone 50 mg PO QHS:PRN insomnia  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:  coronary artery disease, unstable angina, perforated 
left circumflex artery
Secondary:  hypertension  

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking care of you during your stay at ___ 
___.

#Why did you come to the hospital?

- You were having chest pain that did not get better at ___ 
___. Your cardiologist, Dr. ___ you for a procedure 
to check your heart's blood vessels for blockages that might be 
the cause of your pain.

# What happened when you were at the hospital?

- You had a cardiac catheterization. During the procedure, a 
balloon opened a blockage in one of your heart's blood vessels 
that was probably causing your chest pain. During the procedure, 
one of your arteries was damaged, causing a leakage of blood 
outside of the artery. It was treated by putting pressure on it 
for a few minutes and giving you medicine to help your blood 
clot. You recovered very well from the procedure but stayed 
overnight in the hospital so we could watch you closely.

# What should I do when I leave the hospital?

You should:
- take all of your home medications as prescribed before you 
came to the hospital.
- see your cardiologist and primary care doctor at your 
scheduled appointments.

Best,
Your ___ Team
 
Followup Instructions:
___